US08168658B2
4-[1-(acetylamino)-2-amino-2-oxoethyl]-N-[2-(acetylamino)-5-(2-thienyl)phenyl]benzamide.
N-[2-amino-5-(2-thienyl)phenyl]-4-(1,2-diamino-2-oxoethyl)benzamide (51 mg, 0.086 mmol) and DIPEA (52.4 μL, 0.300 mmol) were suspended in THF (1 mL) and acetic anyhdride (13 μL, 0.138 mmol) was added. The mixture was stirred at room temperature overnight. 2N HCl was added and the products extracted into EtOAc. The combined organic extracts were washed with brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by prep-HPLC to give the desired product as a blue-green solid. 1H NMR (DMSO-d6, 600 MHz) δ 9.89 (s, 1H), 9.71 (s, 1H), 8.55 (d, J=7.8 Hz, 1H), 7.91 (m, 3H), 7.75 (s, 1H), 7.55 (m, 3H), 7.51 (d, J=5.4 Hz, 1H), 7.49 (m, 1H), 7.44 (m, 1H), 7.19 (s, 1H), 7.11 (m, 1H), 5.48 (d, J=7.8 Hz, 1H), 2.07 (s, 3H), 1.89 (s, 3H). MS: cal'd 451 (MH+), exp 451 (MH+).

reactant | N-[2-amino-5-(2-thienyl)phenyl]-4-(1,2-diamino-2-oxoethyl)benzamide | 0.086 mmol, 51 mg | NC1=C(C=C(C=C1)C=1SC=CC1)NC(C1=CC=C(C=C1)C(C(=O)N)N)=O | C19H18N4O2S
reactant | DIPEA | 0.300 mmol, 52.4 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | acetic | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | HCl | 2N | Cl | ClH
reactant | THF | 1 mL | C1CCOC1 | C4H8O
product | 4-[1-(acetylamino)-2-amino-2-oxoethyl]-N-[2-(acetylamino)-5-(2-thienyl)phenyl]benzamide | C(C)(=O)NC(C(=O)N)C1=CC=C(C(=O)NC2=C(C=CC(=C2)C=2SC=CC2)NC(C)=O)C=C1 | C23H22N4O4S
